US05104867
14-(1) (2S)-1-t-Butoxycarbonyl-2-(4-methoxybenzylthiomethyl)pyrrolidine
The procedure described in preparation 5-(2) was repeated, but using 12.16 g of (2S)-1-t-butoxycarbonyl-2-methanesulfonyloxymethylpyrroldine [prepared by the methanesulfonylation of (2S)-1-t-butoxycarbonyl-2-hydroxymethylpyrrolidine], 7.3 ml of 4-methoxybenzyl mercaptan and 2.3 g of sodium hydride (as a 55% w/w suspension in mineral oil) in 100 ml of dry dimethylformamide, to afford 13.93 g of the title compound as an oil.

reactant | (2S)-1-t-butoxycarbonyl-2-methanesulfonyloxymethylpyrroldine | 12.16 g | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)COS(=O)(=O)C | C11H21NO5S
reactant | (2S)-1-t-butoxycarbonyl-2-hydroxymethylpyrrolidine | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)CO | C10H19NO3
reactant | 4-methoxybenzyl mercaptan | 7.3 ml | COC1=CC=C(CS)C=C1 | C8H10OS
reactant | sodium hydride | 2.3 g | [H-].[Na+]
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | (2S)-1-t-Butoxycarbonyl-2-(4-methoxybenzylthiomethyl)pyrrolidine | 13.93 g | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)CSCC1=CC=C(C=C1)OC | C18H27NO3S
